### PR TITLE
[Merged by Bors] - feat: another joint continuity result for `cfc`

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 1]
```diff
@@ -257,6 +257,29 @@ theorem continuousOn_cfc_setProd {s : Set 𝕜} (hs : IsCompact s) :
     (fun f hf ↦ continuousOn_cfc A hs ((toFun {s}) f) hf)
     (fun a ⟨_, ha'⟩ ↦ lipschitzOnWith_cfc_fun_of_subset a ha')
 
+open UniformOnFun in
+theorem continuousOn_cfc_setProd_nhdsSet [CompleteSpace A] {s : Set 𝕜} :
+    ContinuousOn (fun fa : (𝕜 →ᵤ[{t | IsCompact t ∧ t ⊆ s}] 𝕜) × A ↦ cfc (toFun {s} fa.1) fa.2)
+      ({f | ContinuousOn (toFun {t | IsCompact t ∧ t ⊆ s} f) s} ×ˢ
+        {a | p a ∧ s ∈ 𝓝ˢ (spectrum 𝕜 a)}) := by
+  refine continuousOn_of_locally_continuousOn fun (f, a) ⟨hf, ha, has⟩ ↦ ?_
+  simp only [Set.mem_setOf_eq] at hf
```
Comment (chenson2018) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]: It seems this `simp` can be removed?

```suggestion
```

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 2]
```diff
@@ -257,6 +257,29 @@ theorem continuousOn_cfc_setProd {s : Set 𝕜} (hs : IsCompact s) :
...
+  have := (upperHemicontinuous_spectrum 𝕜 A).isOpen k
+  refine ⟨Set.univ ×ˢ {x | k ∈ 𝓝ˢ (spectrum 𝕜 x)}, isOpen_univ.prod this, by simpa, ?_⟩
+  conv in cfc _ =>
+    equals cfc (toFun {k} (ofFun {k} (toFun {t | IsCompact t ∧ t ⊆ s} fa.1))) => rfl
+  have : Continuous (fun f : 𝕜 →ᵤ[{t | IsCompact t ∧ t ⊆ s}] 𝕜 ↦
+      ofFun {k} (toFun {t | IsCompact t ∧ t ⊆ s} f)) := by
+    refine UniformContinuous.continuous ?_
+    refine uniformContinuous_ofFun_toFun 𝕜 _ _ ?_
+    simp only [Set.mem_singleton_iff, forall_eq]
+    exact ⟨{k}, by aesop⟩
```
Comment (chenson2018) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]: You could rewrite into a single call to `simp_all`

```suggestion
    apply UniformContinuous.continuous
    refine uniformContinuous_ofFun_toFun 𝕜 _ _ fun _ _ => ?_
    exact ⟨{k}, by simp_all⟩
```
for a bit of performance benefit since this is what `aesop` is doing anyways?

**Review by chenson2018 — COMMENTED** [review]
A couple of small questions about calling `simp` less often that I noticed while stepping through these proofs.

(I'm trying to follow along with Mathlib's continuous functional calculus since your ICERM talk!)

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean (hunk 1 above)
Comment (themathqueen) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]: I'm not so sure this is a good idea. I think this would be abusing set defeq.

Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]: Although true, I think this is a relatively innocuous case, so I would call it "using" defeq.

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean [hunk 3]
```diff
@@ -257,6 +257,31 @@ theorem continuousOn_cfc_setProd {s : Set 𝕜} (hs : IsCompact s) :
     (fun f hf ↦ continuousOn_cfc A hs ((toFun {s}) f) hf)
     (fun a ⟨_, ha'⟩ ↦ lipschitzOnWith_cfc_fun_of_subset a ha')
 
+open UniformOnFun in
+private lemma uniformContinuous_ofFun_toFun_compact {𝕜 : Type*} [UniformSpace 𝕜] {s k : Set 𝕜}
+    (hk : IsCompact k) (hks : k ⊆ s) :
+    Continuous (fun f : 𝕜 →ᵤ[{t | IsCompact t ∧ t ⊆ s}] 𝕜 ↦
+      ofFun {k} (toFun {t | IsCompact t ∧ t ⊆ s} f)) := by
```
Comment (dupuisf) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]: Could this become a public lemma in a file about `UniformOnFun`? Uniform continuity on the compacts is pretty useful more generally I think.

Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]: This lemma looks pretty specialized to me. The generic lemma is `UniformOnFun.uniformContinuous_ofFun_toFun`, and I think that should suit just fine. I only extracted this one because I used it 4 times here.

What might make more sense is having these two specialized versions of it:
```lean
theorem UniformOnFun.uniformContinuous_ofFun_toFun_of_subset {α : Type u_1} (β : Type u_2) [UniformSpace β] (𝔖 𝔗 : Set (Set α)) (h : 𝔖 ⊆ 𝔗) :
UniformContinuous (⇑(ofFun 𝔗) ∘ ⇑(toFun 𝔖))

theorem UniformOnFun.uniformContinuous_ofFun_toFun_of_mem {α : Type u_1} (β : Type u_2) [UniformSpace β] (𝔗 : Set (Set α)) (t : Set α) (h : t ∈ 𝔗) :
UniformContinuous (⇑(ofFun 𝔗) ∘ ⇑(toFun 𝔖))
```
In particular, the last one would be a generalization of the private lemma I wrote which should function as a near drop-in replacement.

Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Continuity.lean]: I have added these lemmas and used the latter instead of the private version I had before.

**Comment by dupuisf** [comment]
Looks good, thanks!

bors r+
